* D:\GitHub\Flexi-TEER\Electronics\3_Calculations&Simulations\Level_shifting_circuit\Level shifter simulation.asc
R1 3V3 N001 2.2k
R2 5V0 OUT1 2.2k
V1 3V3 0 3.3
V2 5V0 0 5
V3 N003 0 PULSE(0 7 1u 0.1u 0.1u 10u 20u)
M2 OUT2 3V3 N004 N004 BSZ060NE2LS
R3 3V3 N004 2.2k
R4 5V0 OUT2 2.2k
M1 OUT1 3V3 N001 N001 BSZ060NE2LS
M3 N001 N002 0 0 BSZ060NE2LS
M4 N004 N002 0 0 BSZ060NE2LS
R5 N002 N003 100
M5 N006 0 N005 N005 FDS4435A
R6 N005 0 100k
R7 N006 -5V0 100k
M6 OUT3 N006 -5V0 -5V0 BSZ060NE2LS
R8 5V0 OUT3 100k
V4 N005 0 PULSE(0 3.3 1u 0.1u 0.1u 10m 20m)
V5 -5V0 0 -5
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\denis\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 50m
.backanno
.end
